US09108926B2
4-[2-(Benzyloxy)-4-fluorophenyl]-N-{3-[(tert-butylsulfonyl)methyl]phenyl}-5-fluoropyrimidin-2-amine
Example 4 was prepared under similar conditions as described in the preparation of Example 3 using 4-[2-(benzyloxy)-4-fluorophenyl]-2-chloro-5-fluoropyrimidine and 3-[(tert-butylsulfonyl)methyl]aniline (UkrOrgSynthesis Ltd.). The batch was purified by preparative HPLC.

reactant | 4-[2-(benzyloxy)-4-fluorophenyl]-2-chloro-5-fluoropyrimidine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C1=NC(=NC=C1F)Cl | C17H11ClF2N2O
reactant | 3-[(tert-butylsulfonyl)methyl]aniline | C(C)(C)(C)S(=O)(=O)CC=1C=C(N)C=CC1 | C11H17NO2S
product | 4-[2-(Benzyloxy)-4-fluorophenyl]-N-{3-[(tert-butylsulfonyl)methyl]phenyl}-5-fluoropyrimidin-2-amine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C1=NC(=NC=C1F)NC1=CC(=CC=C1)CS(=O)(=O)C(C)(C)C | C28H27F2N3O3S
